resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.998571
R2 0 n2 1.016092
R3 0 n4 7.415378
R4 n1 n3 1.011525
R5 n1 n5 0.987517
R6 n2 n3 0.995779
R7 n2 n6 1.01612
R8 n3 n7 0.99833
R9 n4 n5 0.985428
R10 n4 n6 0.982701
R11 n5 n7 0.998957
R12 n6 n7 0.983617
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
